US04179560
A mixture of 3.21 g of 3-(2-chloroethyl)-4-phenyl-6-chloro-3,4-dihydro-2(1H)-quinazolinone and 10 g of phosphorus oxychloride was heated with stirring at 105° C. for 20 hours. The resulting solution was evaporated in vacuo to dryness and the resulting residue was dissolved in chloroform. The chloroform solution was washed with an aqueous sodium bicarbonate solution and then with water, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 2,6-dichloro-3-(2-chloroethyl)-4-phenyl-3,4-dihydroquinazoline. The crude solid was chromatographed on silica gel using chloroform as an eluting solvent. Removal of the solvent and recrystallization of the residue from a mixture of benzene and petroleum benzin gave 0.60 g of pure product, m.p. 169°-170° C. To a solution of 0.34 g of 2,6-dichloro-3-(2-chloroethyl)-4-phenyl-3,4-dihydroquinazoline in 2 ml of dimethylformamide was added 0.59 g of n-propylamine and the mixture was heated at 105° C. for 5 hours. After cooling, 10 ml of water was added to the reaction mixture and the resulting mixture was extracted with chloroform. The organic phase was separated, washed with water and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was chromatographed on silica gel using chloroform as an eluting solvent to give 0.24 g of 1-(n-propyl)-5-phenyl-7-chloro-1,2,3,5-tetrahydroimidazo-[2,1-b]quinazoline hydrochloride. Recrystallization from a mixture of ethanol and diisopropyl ether gave slightly brown fine crystals, m.p. 258° C.

reactant | 3-(2-chloroethyl)-4-phenyl-6-chloro-3,4-dihydro-2(1H)-quinazolinone | 3.21 g | ClCCN1C(NC2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O | C16H14Cl2N2O
reactant | phosphorus oxychloride | 10 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,6-dichloro-3-(2-chloroethyl)-4-phenyl-3,4-dihydroquinazoline | ClC1=NC2=CC=C(C=C2C(N1CCCl)C1=CC=CC=C1)Cl | C16H13Cl3N2
